US07915250B2
A suspension of methyltriphenylphosphonium bromide (23.0 g, 0.0649 mol) and potassium tert-butoxide (7.3 g, 0.0649 mol) in diethyl ether (140 mL) was stirred at room temperature for 20 min, and then heated to 35° C. for 1 h. To this bright yellow reaction mixture was slowly added a dilute solution of phenylmethyl 3-oxoazetidine-1-carboxylate (3.33 g, 0.0162 mol) in diethyl ether (50 mL) The reaction mixture was stirred at 35° C. for 12 hours then filtered through a bed of celite and rinsed with ethyl ether. The filtrate was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by flash chromatography (SiO2, 5-10% ethyl acetate in hexanes) to afford phenylmethyl 3-methylideneazetidine-1-carboxylate (2.46 g, 75% yield) as a clear and colorless oil). 1H NMR (400 MHz, CDCl3): 7.27-7.22 (m, 5H), 5.02 (s, 2H), 4.93-4.90 (m, 2H), 4.48-4.47 (m, 4H). MS (EI) for C12H13NO2: 203 (M+).

reactant | potassium tert-butoxide | 0.0649 mol, 7.3 g | CC(C)([O-])C.[K+]
reactant | phenylmethyl 3-oxoazetidine-1-carboxylate | 0.0162 mol, 3.33 g | O=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C11H11NO3
catalyst | methyltriphenylphosphonium bromide | 0.0649 mol, 23.0 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 140 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | phenylmethyl 3-methylideneazetidine-1-carboxylate | 2.46 g, 75% yield | C=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C12H13NO2
